US06492348B1
(3aS,4S,6R,6aR)-6-(6-Isopropylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid hydrazide
A mixture of (3aS,4S,6R,6aR)-6-(6-isopropylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid methyl ester (3.76 g) and hydrazine hydrate (1.26 ml) in methanol (140 ml) was heated under reflux for 48 h. After cooling to room temperature, the mixture was concentrated in vacuo and the residue triturated with ethyl acetate to afford the title compound as a white solid (3.3 g).

reactant | (3aS,4S,6R,6aR)-6-(6-isopropylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid methyl ester | 3.76 g | COC(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)NC(C)C | C17H23N5O5
reactant | hydrazine hydrate | 1.26 ml | O.NN
solvent | methanol | 140 ml | CO | CH4O
product | (3aS,4S,6R,6aR)-6-(6-Isopropylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid hydrazide | 3.3 g | C(C)(C)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NN | C16H23N7O4
